US04349684
11-(3-ethyl-4.5-diphenyl-2-oxo-4-imidazolin-1-yl) undecanoic acid methyl ester
The product is produced as described in example 1 from 0.45 g of NaH (80% suspension in mineral oil), 4 g of 1-ethyl-4.5-diphenyl-4-imidazolin-2-one, 30 cc. of DMF, 4.2 g of 11-bromoundecanoic acid methyl ester and 0.45 g of NaJ.

reactant | NaH | 0.45 g | [H-].[Na+]
reactant | 1-ethyl-4.5-diphenyl-4-imidazolin-2-one | 4 g | C(C)N1C(NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H16N2O
reactant | 11-bromoundecanoic acid methyl ester | 4.2 g | COC(CCCCCCCCCCBr)=O | C12H23BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 11-(3-ethyl-4.5-diphenyl-2-oxo-4-imidazolin-1-yl) undecanoic acid methyl ester | COC(CCCCCCCCCCN1C(N(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CC)=O)=O | C29H38N2O3
